US08030438B2
(16) Synthesis of 3-(dibutoxyphosphoryl)-5-iodothiophene
In THF, 3.10 g (5.9 mmols) of 3-(dibutoxyphosphoryl)-2,5-diiodothiophene was dissolved and cooled down to −78° C. Commercially available n-butyl lithium (1.59 M hexane solution, 6.2 mmols) was slowly dropped, followed by stirring for 1 hour at a standing temperature. Thereafter, a disodium hydrogen phosphate/sodium dihydrogen phosphate buffer solution, adjusted to pH=7, was added, followed by extraction with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column (ethyl acetate:hexane=1:1) to obtain the specified substance in the form of a brown oil at a yield of 1.88 g (yield: 79%). The thus obtained substance was used as it is for reaction in Example 12(18).

reactant | 3-(dibutoxyphosphoryl)-2,5-diiodothiophene | 5.9 mmols, 3.10 g | C(CCC)OP(=O)(OCCCC)C1=C(SC(=C1)I)I | C12H19I2O3PS
reactant | n-butyl lithium | 6.2 mmols, 1.59 M | C(CCC)[Li]
reactant | disodium hydrogen phosphate sodium dihydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+].P(=O)(O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(dibutoxyphosphoryl)-5-iodothiophene | yield: 79% | C(CCC)OP(=O)(OCCCC)C1=CSC(=C1)I | C12H20IO3PS
